US04016267
Preparation of N1 -(cyclopropyl-1,2-dihydro-5-methyl-2-oxo-4-pyrimidinyl) sulfanilamide
A mixture of 500 mg. of N4 -acetyl-N1 -(1-cyclopropyl-1,2-dihydro-5-methyl-2-oxo-4-pyrimidinyl)sulfanilamide and 5 ml. of 10% aqueous sodium hydroxide was heated on the steam bath for 1 hour, diluted with 10 ml. of water, cooled and acidified by gradual addition of 1ml. of acetic acid. The initial oily precipitate quickly solidified and filtration gave 332 mg. of product melting at 128°-133°. Recrystallization from 7 ml. of ethanol gave 120 mg. of N1 -cyclopropyl-1,2-dihydro-5-methyl-2-oxo-4-pyrimidinyl)sulfanilamide, melting at 134°-136°.

reactant | N4 -acetyl-N1 -(1-cyclopropyl-1,2-dihydro-5-methyl-2-oxo-4-pyrimidinyl)sulfanilamide | C(C)(=O)NC1=CC=C(S(=O)(=O)NC2=NC(N(C=C2C)C2CC2)=O)C=C1 | C16H18N4O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
reactant | sulfanilamide | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N1 -(cyclopropyl-1,2-dihydro-5-methyl-2-oxo-4-pyrimidinyl) sulfanilamide | C1(CC1)N1C(N=C(C(=C1)C)NS(=O)(C1=CC=C(C=C1)N)=O)=O | C14H16N4O3S
